US06414144B1
D. (2R)-2-Methyl-2,3,8,9,10,10a-Hexahydro-7bH-Cyclopenta[b]-[1,4]Diazepino-[6,7,1-hi]Indole-1,4-Dione
Following the procedure of method 1E, (2R)-2-[(1,2,3,3a,4,8b-hexahydrocyclopenta[b]indol-5-ylcarbonyl)amino]propanoic acid was cyclized by refluxing in acetic acid (50 mL). Purification by flash chromatography through silica gel (elution with 5% methanol-chloroform) provided each diastereomer: less polar product (1.5 mmol, 0.39 g, 56% over 2 steps) arbitrarily assigned as the R,R configuration and more polar product (0.47 mmol, 0.11 g, 17% over 2 steps) assigned as the S,S configuration.

reactant | (2R)-2-[(1,2,3,3a,4,8b-hexahydrocyclopenta[b]indol-5-ylcarbonyl)amino]propanoic acid | C1CCC2NC=3C(=CC=CC3C21)C(=O)N[C@@H](C(=O)O)C | C15H18N2O3
solvent | acetic acid | 50 mL | C(C)(=O)O | C2H4O2
product | (2R)-2-Methyl-2,3,8,9,10,10a-Hexahydro-7bH-Cyclopenta[b]-[1,4]Diazepino-[6,7,1-hi]Indole-1,4-Dione | C[C@@H]1C(N2C3C(C4=CC=CC(=C24)C(N1)=O)CCC3)=O | C15H16N2O2
